US04743291
In a manner similar to Step C of Example 9, the reaction of 4.0 g (0.017 mole) of 5-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran with 7.0 mL (0.069 mole) of 2-bromopropionyl chloride produced 5.4 g of N-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)sulfonyl-2-bromopropionamide as a solid (mp 125°-128° C.).

reactant | 5-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran | 0.017 mole, 4.0 g | NS(=O)(=O)C=1C=CC2=C(CC(O2)(C)C)C1 | C10H13NO3S
reactant | 2-bromopropionyl chloride | 0.069 mole, 7.0 mL | BrC(C(=O)Cl)C | C3H4BrClO
product | N-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)sulfonyl-2-bromopropionamide | 5.4 g | CC1(OC2=C(C1)C=C(C=C2)S(=O)(=O)NC(C(C)Br)=O)C | C13H16BrNO4S
